US06515005B2
Benzyl-2,2,2-trifluoroethyl-amine Hydrochloride, Scheme 5: (E)
A stirred solution of benzylamine (5.0 mL, 45.77 mmoles) and triethylamine (6.4 mL, 1 equiv.) in methylene chloride (50 mL) at 0° C. was treated with trifluoroacetic anhydride (6.5 mL, 1 equiv.), dropwise over 10 minutes. After 2 hours, the solvents were evaporated and the residue partitioned between ethyl acetate and 2% phosphoric acid. The organic phase was washed with water and brine, dried over magnesium sulfate, and evaporated. The crude amide was cooled to 0° C. under nitrogen and treated with ice-cold 1M borane-tetrahydrofuran complex (137 mL, 3 equiv.). The reaction mixture was heated at reflux for 14 hours and then cooled to 0° C. Methanol (50 mL) was carefully added and, when bubbling had largely ceased, the mixture was heated at reflux for 5 hours. Upon cooling to room temperature, the stirred mixture was treated with a solution of t-butylpyrocarbonate (14.00 g, 1.4 equiv.) in methylene chloride (25 mL). After continued stirring overnight at room temperature, the mixture was evaporated and the residue partitioned between ethyl acetate and water. The organic phase was washed with more water and brine, dried over magnesium sulfate, and evaporated. The residue in methylene chloride (25 mL) was treated with 4M hydrogen chloride in dioxane (69 mL, 1.5 equiv.) and the reaction was stirred at room temperature overnight. Evaporation gave a semi-solid that was triturated with ether. The resulting white solid product was collected by filtration, washed with ether, and dried in vacuo (9.28 g, 90%). 1H-NMR δ (D2O) 3.97 (q, 2H), 4.07 (s, 2H), 7.52 (s, 5H).

reactant | benzylamine | 45.77 mmoles, 5.0 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | triethylamine | 6.4 mL, 1 equiv. | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 6.5 mL, 1 equiv. | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | t-butylpyrocarbonate | 14.00 g, 1.4 equiv. | C(C)(C)(C)OC(=O)OC(=O)[O-]
reactant | hydrogen chloride | 4M | Cl | ClH
reactant | dioxane | 69 mL, 1.5 equiv. | O1CCOCC1 | C4H8O2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | Methanol | 50 mL | CO | CH4O
product | Benzyl-2,2,2-trifluoroethyl-amine Hydrochloride | Cl.C(C1=CC=CC=C1)NCC(F)(F)F | InChI=1S/C9H10F3N.ClH/c10-9(11,12)7-13-6-8-4-2-1-3-5-8;/h1-5,13H,6-7H2;1H
